US05011927
(a) 2,4-Difluoro-6-methoxypyrimidine
335.8 g (1.865 mol) of 30% strength sodium methylate (in methanol) were added at -20° C. to a mixture of 250 g (1.865 mol) of 2,4,6-trifluoropyrimidine in 1.4 1 of methanol within 45 minutes, and the mixture was stirred at this temperature for a further 30 minutes. The reaction mixture was then allowed to warm to 25° C. and concentrated to about 1/5 of its volume.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2,4,6-trifluoropyrimidine | 1.865 mol, 250 g | FC1=NC(=CC(=N1)F)F | C4HF3N2
solvent | methanol | CO | CH4O
product | 2,4-Difluoro-6-methoxypyrimidine | FC1=NC(=CC(=N1)F)OC | C5H4F2N2O
